US07312233B2
2-((cyclopropylmethoxy)methyl)-2,3-dihydrobenzo[b][1,4]dioxin-6-amine
2-((cyclopropylmethoxy)methyl)-2,3-dihydro-6-nitrobenzo[b][1,4]dioxine (0.33 g, 0.0012 mol) was dissolved in 20 mL dioxane. Sodium dithionite (2.2 g, 0.013 mol was suspended in water (4 mL) and NH4OH (2 mL) and then added to the dioxane solution. The reaction was stirred at room temp for 6 hrs. The mixture was filtered through a filter paper and the filtrate concentrated under vacuum to a white solid. The solid was suspended in 10% EtOAc/hexanes and filtered. The filtrate was concentrated to a white solid and used for the next reaction without further purification. Yield of the title compound is 0.29 g (98%). m/z=235.8 (M+1).

reactant | 2-((cyclopropylmethoxy)methyl)-2,3-dihydro-6-nitrobenzo[b][1,4]dioxine | 0.0012 mol, 0.33 g | C1(CC1)COCC1COC2=C(O1)C=CC(=C2)[N+](=O)[O-] | C13H15NO5
reactant | Sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | NH4OH | 2 mL | [NH4+].[OH-]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
product | 2-((cyclopropylmethoxy)methyl)-2,3-dihydrobenzo[b][1,4]dioxin-6-amine | C1(CC1)COCC1COC2=C(O1)C=CC(=C2)N | C13H17NO3
